US07884207B2
To a solution of tert-butyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate (78.4 mmol, prepared as described above) in dichloromethane (300 mL) was added triethylamine (11 mL, 79 mmol) and 4-chloro-3-nitroquinoline (12.7 g, 61.2 mmol). The mixture was stirred at rt for 1 h, then heated at reflux for 1 h. The solution was transferred to a separatory funnel and extracted with water (100 mL). The organic layer was isolated and upon standing a precipitate formed. The solid was isolated by filtration and washed with dichloromethane and water and dried. Additional solid precipitated from the mother liquor and was isolated. The two yellow solids were combined and dried to yield tert-butyl 4-hydroxy-4-{[(3-nitroquinolin-4-yl)amino]methyl}piperidine-1-carboxylate (20.23 g, 82%).

reactant | tert-butyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate | 78.4 mmol | NCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C11H22N2O3
reactant | triethylamine | 79 mmol, 11 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitroquinoline | 61.2 mmol, 12.7 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | tert-butyl 4-hydroxy-4-{[(3-nitroquinolin-4-yl)amino]methyl}piperidine-1-carboxylate | 20.23 g, 82% | OC1(CCN(CC1)C(=O)OC(C)(C)C)CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C20H26N4O5
